** Generated for: hspiceD
** Generated on: Apr  5 15:32:53 2019
** Design library name: twoStageOTATest
** Design cell name: twoStageOTA
** Design view name: schematic
.GLOBAL vdd! gnd!

.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2

** Library name: twoStageOTATest
** Cell name: twoStageOTA
** View name: schematic
mBOBias vbBias vbBias vdd! vdd! pmos
mT11 outFirstStage1 in1 dpSource dpSource pmos 
mT12 outFirstStage2 in2 dpSource dpSource pmos 
mB11 dpSource vbBias vdd! vdd! pmos
mL11 outFirstStage1 outFirstStage2 gnd! gnd! nmos
mL12 outFirstStage2 outFirstStage2 gnd! gnd! nmos
.END
