** Generated for: hspiceD
** Generated on: Apr  5 15:32:53 2019
** Design library name: twoStageOTATest
** Design cell name: twoStageOTA
** Design view name: schematic
.GLOBAL vdd! gnd!

.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2

** Library name: twoStageOTATest
** Cell name: twoStageOTA
** View name: schematic
mBOBias vbBias vbBias gnd! gnd! nmos
mT11 outFirstStage1 in1 dpSource dpSource nmos 
mT12 outFirstStage2 in2 dpSource dpSource nmos 
mB11 dpSource vbBias gnd! gnd! nmos
mL11 outFirstStage1 outFirstStage1 vdd! vdd! pmos
mL12 outFirstStage2 outFirstStage2 vdd! vdd! pmos
.END
